US07109218B2
2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-[4-(2-hydroxyethoxy)phenyl]-3,5-pyridinedicarbonitrile
428.4 g (2.0 mol) of 2-[4-(2-hydroxyethoxy)-benzylidene]malononitrile, 108.4 g (1.05 mol) of 2-cyanothioacetamide and 244.1 g (1.0 mol) of 4-chloromethyl-2-(4-chlorophenyl)-1,3-thiazole are suspended in 3.4 liters of methanol and 556.1 g (3.0 mol) of tributylamine are added over a period of 60 minutes. The mixture is subsequently stirred for 20 hours at room temperature and the product is filtered off. After drying in vacuo, the crude product (360.8 g, crude yield: 70% of theory) is suspended in 3 liters of dichloromethane and stirred for 2 hours at 35° C. The product is filtered off and dried in a high vacuum. The crystals, which are now white, can be purified further by recrystallization from tetrahydrofuran/water (1:1).

reactant | 2-[4-(2-hydroxyethoxy)-benzylidene]malononitrile | 2.0 mol, 428.4 g | OCCOC1=CC=C(C=C(C#N)C#N)C=C1 | C12H10N2O2
reactant | 2-cyanothioacetamide | 1.05 mol, 108.4 g | C(#N)CC(=S)N | C3H4N2S
reactant | 4-chloromethyl-2-(4-chlorophenyl)-1,3-thiazole | 1.0 mol, 244.1 g | ClCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C10H7Cl2NS
reactant | tributylamine | 3.0 mol, 556.1 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | methanol | 3.4 liters | CO | CH4O
product | 2-Amino-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulphanyl)-4-[4-(2-hydroxyethoxy)phenyl]-3,5-pyridinedicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC=C(C=C1)OCCO)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C25H18ClN5O2S2
